US05239075
B. 6-fluoro-1-methyl-2 pyrrolidinyl-3,4-dihydronaphthalene
To 6-fluoro-2-pyrrolidinyl-3,4-dihydronaphthalene (13 g; 60.8 mmol) in 200 ml of dry tetrahydrofuran (THF) was added methyliodide (30 ml; 482 mmol) and the mixture was refluxed for 2 hours. The reaction mixture was allowed to cool with stirring while crystallization took place. The solids were collected by filtration to afford the subtitle compound.

reactant | 6-fluoro-2-pyrrolidinyl-3,4-dihydronaphthalene | 60.8 mmol, 13 g | FC=1C=C2CCC(=CC2=CC1)N1CCCC1 | C14H16FN
reactant | methyliodide | 482 mmol, 30 ml | CI | CH3I
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 6-fluoro-1-methyl-2 pyrrolidinyl-3,4-dihydronaphthalene | FC=1C=C2CCC(=C(C2=CC1)C)N1CCCC1 | C15H18FN
